US09079866B2
5-(2′,3-Difluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromofluorobenzene. MS (ESI): mass calcd. for C16H11F2N3, 283.09; m/z found, 284.1 [M+H]+. 1H NMR (600 MHz, CDCl3) δ 8.63-8.54 (m, 1H), 8.13 (d, J=1.4, 1H), 8.00 (m, 1H), 7.52-7.31 (m, 4H), 7.24-7.12 (m, 2H), 4.72 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromofluorobenzene | BrC1=C(C=CC=C1)F | C6H4BrF
product | 5-(2′,3-Difluorobiphenyl-4-yl)pyrazin-2-amine | FC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C16H11F2N3
